US04145347
From 9.2 g. of ethyl 2-methyl-5-oxo-1-pyrrolidineacetate and 8.7 g. of 2-(diisopropylamino)ethylamine, following the procedure of Example 9, there is obtained N-[2-[Bis(1-methylethyl)amino]ethyl]-2-methyl-5-oxo-1-pyrrolidineacetamide; m.p. 73°-74° C. after recrystallization from hexane.

reactant | ethyl 2-methyl-5-oxo-1-pyrrolidineacetate | CC1N(C(CC1)=O)CC(=O)OCC | C9H15NO3
reactant | 2-(diisopropylamino)ethylamine | C(C)(C)N(CCN)C(C)C | C8H20N2
product | N-[2-[Bis(1-methylethyl)amino]ethyl]-2-methyl-5-oxo-1-pyrrolidineacetamide | CC(C)N(CCNC(CN1C(CCC1=O)C)=O)C(C)C | C15H29N3O2
